US09126931B2
3-Chloro-8-((R)-2,3-dihydroxy-propoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-9-carbonitrile
3-Chloro-9-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound S7-2, 17 mg, 37 mmol) was dissolved in DMA, added with CuCN (17 mg, 5 eq.), and stirred at 220° C. for 2 hr under irradiation with microwave. After cooling, the reaction solution was added with ethyl acetate, and the precipitated solid was filtered to remove the solvent. The resulting residues were purified by HPLC to obtain the title compound (4 mg).

reactant | 3-Chloro-9-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 37 mmol, 17 mg | ClC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C(=C4)Br)OC[C@@H]4OC(OC4)(C)C)=O | C24H23BrClNO4
reactant | CuCN | 17 mg, 5 eq. | C(#N)[Cu]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 3-Chloro-8-((R)-2,3-dihydroxy-propoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-9-carbonitrile | 4 mg | ClC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C(=C4)C#N)OC[C@@H](CO)O)=O | C22H19ClN2O4
